US03974222
15.2 g of pulegone are treated with 0.5 ml of triethylamine and cooled to ca 0° by means of an ice-common salt mixture. With stirring, methyl mercaptan in excess is condensed into the mixture and, after condensation of 200% of the calculated amount, the mixture is transferred into an autoclave. After standing overnight at room temperature, the reaction mixture is heated to 50° and, after cooling of the autoclave, the reaction product immediately distilled in vacuum. 9.8 g of 8-methylthio-p-menthan-3-one are obtained as a clear liquid with pleasant odour reminiscent of peppermint, geranium and caraway, boiling point 72°-73°/0.15 mm Hg, nD20 1.4982. The yield amounts to 73% of the theory based on reacted pulegone. The two stereoisomeric compounds 8-methylthio-cis-p-menthan-3-one and 8-methylio-trans-p-menthan-3-one obtained can be separated gas-chromatographically.

reactant | pulegone | 15.2 g | C[C@@H]1CCC(=C(C)C)C(=O)C1 | C10H16O
reactant | methyl mercaptan | CS | CH4S
solvent | triethylamine | 0.5 ml | C(C)N(CC)CC | C6H15N
product | 8-methylthio-p-menthan-3-one | 9.8 g | CSC(C1C(CC(CC1)C)=O)(C)C | C11H20OS
